US08912188B2
To a solution of methyl 4-fluoro-2-methoxybenzoate (50 g, 271.50 mmol) in sulfuric acid (150 mL) was added a solution of potassium nitrate (35.6 g, 352.48 mmol) in sulfuric acid (30 mL) dropwise with stirring for 45 min at 0-25° C. in an ice/water bath. The reaction was then quenched by the addition of water/ice. The solids were collected by filtration to afford methyl 4-fluoro-2-methoxy-5-nitrobenzoate as a white solid (40.0 g, 64%).

reactant | methyl 4-fluoro-2-methoxybenzoate | 271.50 mmol, 50 g | FC1=CC(=C(C(=O)OC)C=C1)OC | C9H9FO3
reactant | potassium nitrate | 352.48 mmol, 35.6 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | methyl 4-fluoro-2-methoxy-5-nitrobenzoate | 40.0 g, 64% | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])OC | C9H8FNO5
